US08541425B2
Step 1: 3-[3-(Hydroxymethyl)cyclopentyl]-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile
A solution of 3-(3-formylcyclopentyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo-[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile (50.0 mg, 0.108 mmol) in methanol (280 μL) was cooled to 0° C., then sodium tetrahydroborate (14 mg, 0.37 mmol) was added. The reaction was held at 0° C. for 10 minutes, at which point LCMS and TLC indicated complete reaction. The reaction was quenched by cautious addition of 1N HCl (3 drops) and methanol (1 mL), followed by addition of aqueous NaHCO3 and CHCl3. The phases were separated and the aqueous phase was washed with additional CHCl3. The combined organic phase was washed with sat'd NaCl, dried over MgSO4 and reduced to dryness. The residue was purified by column chromatography to obtain the product as a mixture of diastereomers (37.4 mg, 74%). 1H NMR (400 MHz, CDCl3): 8.84 (s, 1H), 8.31 (s, 2H), 7.40 (d, 1H), 6.80 (d, 1H), 5.67 (s, 2H), 4.29 (m, 1H), 3.53 (m, 1H), 3.53 (t, 2H), 3.14 (m, 1H), 2.95 (m, 1H), 2.68 (m, 1H), 2.2-1.0 (m, 9H), 0.92 (t, 2H), −0.059 (s, 9H). MS (EI) m/z=467.2 (M′H).

reactant | 3-(3-formylcyclopentyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo-[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | 0.108 mmol, 50.0 mg | C(=O)C1CC(CC1)C(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H32N6O2Si
reactant | sodium tetrahydroborate | 0.37 mmol, 14 mg | [BH4-].[Na+]
solvent | methanol | 280 μL | CO | CH4O
product | 3-[3-(Hydroxymethyl)cyclopentyl]-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | OCC1CC(CC1)C(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H34N6O2Si
